US06114532
a. 4-[(5-benzenesulphonylamino-1-(ethoxycarbonylmethylaminocarbonylmethyl)-1H-benzimidazol-2-yl)-methyl]-benzonitrile
2.7 g (6.1 mmol) of 4-[(5-benzenesulphonylamino-1-carboxymethyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile, 0.85 g (6.1 mmol) of glycine-ethyl ester-hydrochloride and 1.5 g (15 mmol) of triethylamine are dissolved in 80 ml dimethylformamide and after the addition of 2.4 g (7.5 mmol) of O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluroniumtetrafluoroborate the mixture is stirred for 16 hours at ambient temperature. The solvent is evaporated off, the residue chromatographed on silica gel and eluted with methylene chloride/ethanol 99:1 and 98:2. The desired fractions are concentrated by evaporation, the residue is triturated with ether, suction filtered and dried.

reactant | 4-[(5-benzenesulphonylamino-1-carboxymethyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile | 6.1 mmol, 2.7 g | C1(=CC=CC=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)CC2=CC=C(C#N)C=C2)CC(=O)O)C=C1 | C23H18N4O4S
reactant | glycine-ethyl ester-hydrochloride | 6.1 mmol, 0.85 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluroniumtetrafluoroborate | 7.5 mmol, 2.4 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 4-[(5-benzenesulphonylamino-1-(ethoxycarbonylmethylaminocarbonylmethyl)-1H-benzimidazol-2-yl)-methyl]-benzonitrile | C1(=CC=CC=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)CC2=CC=C(C#N)C=C2)CC(=O)NCC(=O)OCC)C=C1 | C27H25N5O5S
